US08895733B2
Intermediate 276: 6-[(3,3,3-Trifluoropropyl)sulfanyl]pyridine-3-carboxylic acid
To a stirred solution of 6-sulfanylpyridine-3-carboxylic acid (0.5 g, 3.22 mmol) in EtOH (50 mL) at 0 C was added sodium acetate (0.26 g, 3.22 mmol) and 1,1,1-trifluoro-3-iodopropane (0.72 g, 3.22 mmol) and the mixture was heated at 80 C for 24 h. The mixture was concentrated under vacuum, water was added and the mixture was acidified to pH 4 using acetic acid. The resultant yellow precipitate was collected by filtration and purified by FCC, eluting with 2% MeOH in DCM to afford the title compound (0.459 g, 57%). Method B HPLC-MS: MH+ requires m/z=252 Found: m/z=252, Rt=1.84 min (91%).

reactant | 6-sulfanylpyridine-3-carboxylic acid | 3.22 mmol, 0.5 g | SC1=CC=C(C=N1)C(=O)O | C6H5NO2S
reactant | sodium acetate | 3.22 mmol, 0.26 g | C(C)(=O)[O-].[Na+]
reactant | 1,1,1-trifluoro-3-iodopropane | 3.22 mmol, 0.72 g | FC(CCI)(F)F | C3H4F3I
solvent | EtOH | 50 mL | CCO | C2H6O
product | 6-[(3,3,3-Trifluoropropyl)sulfanyl]pyridine-3-carboxylic acid | 0.459 g, 57% | FC(CCSC1=CC=C(C=N1)C(=O)O)(F)F | C9H8F3NO2S
